US05574042
A mixture of 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-(4-nitrophenyloxycarbonyl)amino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (63 mg) and 30% solution of methylamine in methanol (2 ml) was heated under reflux for 3 hours. After addition of 30% solution of methylamine in methanol (1 ml), the mixture was heated under reflux for additional 1 hour. The mixture was evaporated in vacuo and the residue was extracted with ethyl acetate. The extract was evaporated in vacuo and the residue was purified by preparative thin-layer chromatography (5% solution of methanol in dichloromethane) followed by crystallization from diethyl ether to give 3-bromo-8-[2,6-dichloro-3-(N-methyl-N'-methylureido)benzyloxy]-2-methylimidazo[1,2-a]pyridine (28 mg) as crystals.

reactant | 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-(4-nitrophenyloxycarbonyl)amino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 63 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C)Cl)C | C23H17BrCl2N4O5
reactant | methylamine | CN | CH5N
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | 3-bromo-8-[2,6-dichloro-3-(N-methyl-N'-methylureido)benzyloxy]-2-methylimidazo[1,2-a]pyridine | 28 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(=O)NC)C)Cl)C | C18H17BrCl2N4O2
